US04243405
4-Chlorobenzaldehyde (140.5 g) and pinacolone (100 g) in industrial methylated spirit (IMS; 200 ml) were added dropwise over 25 minutes to sodium hydroxide (40 g) in water (70 ml) and IMS (150 ml) with external cooling (ice/water) applied to maintain a temperature of not more than 25°. The resulting creamy suspension was stirred for a further 3 hours at 18° and was then filtered. The residue was washed with aqueous IMS and dried to give 4-chlorobenzal pinacolone, m.p. 83°-84°. The filtrate was concentrated under reduced pressure and allowed to stand for 2 days to give more of the chalcone product, m.p. 83°-84°.

reactant | 4-Chlorobenzaldehyde | 140.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | pinacolone | 100 g | CC(C(C)(C)C)=O | C6H12O
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | water | 70 ml | O | H2O
product | 4-chlorobenzal pinacolone | ClC1=CC=C(C=CC(C(C)(C)C)=O)C=C1 | C13H15ClO
